US06472393B1
4-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-1-(4-hydroxy-3-methoxy-phenyl)-ethylamino]-benzonitrile (1 g, 2.43 mmoles) was dissolved in tetrahydrofuran (30 ml) and triphenylphosphine (1.27 g, 4.84 mmoles), (S)-2-chloro-1-phenyl-ethanol (1.13 g, 7.26 mmoles) added. The reaction was cooled to 0° C. and diethylazodicarboxylate (0.842 g, 4.8 mmoles) added. The reaction temperature was allowed to come to room temperature and the reaction stirred for 2.5 hours. The solvent was removed in vacuo and the residue taken up in ethyl acetate, washed with 0.5 N sodium hydroxide several times, washed once with brine and dried over anhydrous sodium sulfate. The crude product was purified by flash chromatography on silica gel (30% ethyl acetate in hexanes) to yield 1.1 g of 4-[1-[4-(2-chloro-1-phenyl-ethoxy)-3-methoxy-phenyl]-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethylamino]-benzonitrile, (82%).

reactant | 4-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-1-(4-hydroxy-3-methoxy-phenyl)-ethylamino]-benzonitrile | 2.43 mmoles, 1 g | O=C1N(C(C2=CC=CC=C12)=O)CC(C1=CC(=C(C=C1)O)OC)NC1=CC=C(C#N)C=C1 | C24H19N3O4
reactant | triphenylphosphine | 4.84 mmoles, 1.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (S)-2-chloro-1-phenyl-ethanol | 7.26 mmoles, 1.13 g | ClC[C@@H](O)C1=CC=CC=C1 | C8H9ClO
reactant | diethylazodicarboxylate | 4.8 mmoles, 0.842 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[1-[4-(2-chloro-1-phenyl-ethoxy)-3-methoxy-phenyl]-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethylamino]-benzonitrile | 1.1 g, 82% | ClCC(OC1=C(C=C(C=C1)C(CN1C(C2=CC=CC=C2C1=O)=O)NC1=CC=C(C#N)C=C1)OC)C1=CC=CC=C1 | C32H26ClN3O4
